US07101868B2
{2-[(2H-Benzo[d]1,3-dioxol-5-ylmethyl)amino](3-pyridyl)}-N-(4-phenoxyphenyl)carboxamide
2-Chloro-(3-pyridyl)-N-(4-phenoxyphenyl)-carboxamide (0.500 g, 1.5 mmol) and 2H-benzo[d]1,3-dioxolan-5-ylmethylamine (0.680 g, 4.5 mmol) were combined and heated neat at 110° C. for 18 h. After cooling to RT, the resulting residue was dissolved in EtOAc and washed with saturated NaACO3 solution and brine, respectively. The organics were dried over Na2SO4 and evaporated. The crude material was purified by column chromatography with EtOAc/hexanes (1:2) as eluant to leave the desired compound as an off-white solid. MS: (ES+) 440 (M +1)+; (ES−): 438 (M−1)−. Calc'd. for C26H21N3O4-439.15.

reactant | 2-Chloro-(3-pyridyl)-N-(4-phenoxyphenyl)-carboxamide | 1.5 mmol, 0.500 g | ClC1=C(C=CC(=C1)OC1=CC=CC=C1)NC(=O)C=1C=NC=CC1 | C18H13ClN2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | {2-[(2H-Benzo[d]1,3-dioxol-5-ylmethyl)amino](3-pyridyl)}-N-(4-phenoxyphenyl)carboxamide | O1COC2=C1C=CC(=C2)CNC2=NC=CC=C2C(=O)NC2=CC=C(C=C2)OC2=CC=CC=C2 | C26H21N3O4
